US04420630
To a mixture of 24.93 g (0.10 mol) of N-phenyl-4-hydroxybenzenesulfonamide, 10.12 g (0.10 mol) of triethylamine and 150 ml of methylene chloride was added, dropwise, a solution of 24.75 g (0.10 mol) of 4-(2-bromoethyl)benzoyl chloride in 150 ml of methylene chloride over a period of 12 minutes. The reaction mixture was stirred at room temperature for 3 hours, after which 500 ml of methylene chloride were added. The solution was washed once with 2% HCl and twice with water, dried over magnesium sulfate and concentrated to a white solid. Recrystallization from ethanol gave 39.7 g (86.1% of theory) of 4-(N-phenylsulfamoyl)phenyl 4-(2-bromoethyl)benzoate, mp=156°-7° C.

reactant | N-phenyl-4-hydroxybenzenesulfonamide | 0.10 mol, 24.93 g | C1(=CC=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)O | C12H11NO3S
reactant | triethylamine | 0.10 mol, 10.12 g | C(C)N(CC)CC | C6H15N
reactant | 4-(2-bromoethyl)benzoyl chloride | 0.10 mol, 24.75 g | BrCCC1=CC=C(C(=O)Cl)C=C1 | C9H8BrClO
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 4-(N-phenylsulfamoyl)phenyl 4-(2-bromoethyl)benzoate | 39.7 g, 86.1% | BrCCC1=CC=C(C(=O)OC2=CC=C(C=C2)S(NC2=CC=CC=C2)(=O)=O)C=C1 | C21H18BrNO4S
